*Analise do t1

.options savecurrents

R1 1 2 1.02166163214 
R2 2 3 2.05713464724 
R3 2 4 3.10288701080  	  
R4 0 4 4.16870321182 
R5 4 5 3.01167607597 
R6 e 6 2.04520070018 
Ve 0 e 0.00000000000       
R7 6 7 1.02576029486

Va 1 0 5.24841080700 
Id 7 5 1.00334118042 
Gb 5 3 (2,4) 7.24529394385 
Hc 4 7 Ve 8.29202733390 

*Kb  7.24529394385 
*Kc  8.2920273339

.control
	
op

echo "op_TAB"
print all
echo "op_END"
quit

.endc



